US09107916B2
H. 2-[4-[2-[tert-butyl(dimethyl)silyl]oxyethyl]-5-[(4-fluorophenyl)methoxy]pyrazol-1-yl]pyridine-4-carbonitrile
The title compound was prepared in 43% yield from 2-[4-[2-[tert-butyl(dimethyl)silyl]oxyethyl]-5-hydroxypyrazol-1-yl]pyridine-4-carbonitrile and (4-fluorophenyl)methanol according to the procedure for the preparation of Example 39, part C. 1H NMR (400 MHz, CDCl3): δ 0.00 (6H, s), 0.85 (9H, s), 2.50 (2H, t, J=6.4 Hz), 3.68 (2H, d, J=6.4 Hz), 5.12 (2H, s), 6.98-7.02 (2H, m), 7.30-7.34 (3H, m), 7.54 (1H, s), 7.98 (1H, s), 8.58 (1H, d, J=5.2 Hz). [M+H] Calc'd for C24H29FN4O2Si, 453. Found, 453.

reactant | 2-[4-[2-[tert-butyl(dimethyl)silyl]oxyethyl]-5-hydroxypyrazol-1-yl]pyridine-4-carbonitrile | [Si](C)(C)(C(C)(C)C)OCCC=1C=NN(C1O)C1=NC=CC(=C1)C#N | C17H24N4O2Si
reactant | (4-fluorophenyl)methanol | FC1=CC=C(C=C1)CO | C7H7FO
product | 2-[4-[2-[tert-butyl(dimethyl)silyl]oxyethyl]-5-[(4-fluorophenyl)methoxy]pyrazol-1-yl]pyridine-4-carbonitrile | 43% yield | [Si](C)(C)(C(C)(C)C)OCCC=1C=NN(C1OCC1=CC=C(C=C1)F)C1=NC=CC(=C1)C#N | C24H29FN4O2Si
